US05310897
To a solution of (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-azetidin-2-one (755 mg) in methylene chloride (10 ml), there were added successively t-butyl bromoacetate (1.88 g), 50% sodium hydroxide (620 mg) and triethylbenzylammonium chloride (220 mg), followed by stirring at room temperature for 2 hours. The reaction mixture was diluted with water and diethyl ether. The aqueous layer was separated from the organic layer and extracted two times with diethyl ether. The extracts were combined with the organic layer, washed with water two times and brine three times, dried over sodium sulfate and evaporated. The residue was purified by silica gel chromatography to give (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one.

reactant | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-azetidin-2-one | 755 mg | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1[C@@H](C)C(=O)OCC1=CC=CC=C1)=O | C21H33NO4Si
reactant | t-butyl bromoacetate | 1.88 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydroxide | 620 mg | [OH-].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 220 mg | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3S,4S)-3-[(1R)-1-t-butyldimethylsilyloxyethyl]-4-[(1R)-1-benzyloxycarbonylethyl]-1-(t-butyloxycarbonylmethyl)azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@@H](C)C(=O)OCC1=CC=CC=C1)CC(=O)OC(C)(C)C)=O | C27H43NO6Si
